US06235731B1
2) Synthesis of N-[4-(4-benzylpiperidin-1-ylmethyl)-benzyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 1.73 g (3.50 mM) of N-[4-(4-benzylpiperidin-1-ylmethyl)benzyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (12 ml) was added 1 ml (12 mM) of 12N-hydrochloric acid at room temperature, and the mixture was stirred for several minutes (crystals separated out). This reaction mixture was concentrated under reduced pressure and ethanol and diethyl ether were added to the residue. The crystal crop was then harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals.

reactant | N-[4-(4-benzylpiperidin-1-ylmethyl)benzyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 3.50 mM, 1.73 g | C(C1=CC=CC=C1)C1CCN(CC1)CC1=CC=C(CNC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=C1 | C30H30N4OS
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | N-[4-(4-benzylpiperidin-1-ylmethyl)-benzyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)C1CCN(CC1)CC1=CC=C(CNC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=C1 | InChI=1S/C30H30N4OS.2ClH/c35-30(27-18-26-20-31-28-7-4-8-29(36-27)34(26)28)32-19-24-9-11-25(12-10-24)21-33-15-13-23(14-16-33)17-22-5-2-1-3-6-22;;/h1-12,18,20,23H,13-17,19,21H2,(H,32,35);2*1H
